US04500343
1-[5-(1,1-Dimethylbutyl)-3-isoxazolyl]-3-methyl-2-pyrrolidinone was prepared by reacting 17.2 g of 4-chloro-N-[5-(1,1-dimethylbutyl)-3-isoxazolyl]-2-methylbutanamide with 6.72 g of potassium hydroxide in 30 ml water and 75 ml ethanol by the general method of Example 3. Weight 4 g (Yield 20%). mp 30°-31° C.

reactant | 4-chloro-N-[5-(1,1-dimethylbutyl)-3-isoxazolyl]-2-methylbutanamide | 17.2 g | ClCCC(C(=O)NC1=NOC(=C1)C(CCC)(C)C)C | C14H23ClN2O2
reactant | potassium hydroxide | 6.72 g | [OH-].[K+]
solvent | water | 30 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1-[5-(1,1-Dimethylbutyl)-3-isoxazolyl]-3-methyl-2-pyrrolidinone | Yield 20% | CC(CCC)(C)C1=CC(=NO1)N1C(C(CC1)C)=O | C14H22N2O2
